### PR TITLE
Fix compilation of SeqFacts.v with mathcomp dev's branch

### LINKED ISSUE #28: Fixing compilation with coq/mathComp dev
Hi folks!

Happy new year! 

I've just noticed toychain does not compile with dev mathcomp (and coq dev, but changes are from ssreflect path's library). It is a very quick fix ( https://github.com/germanD/toychain/commit/935b73dab66ef6304252cd2a307e769b37ee7bddl). Shall I open a MR? Or you are planning updates in the future?

### PR DESCRIPTION
**Pull request by germanD**
Fixes #28:

- path_min_sorted hypothesis changed, and now one has to explicitly call `allP` to continue discharging the first subgoal.

- replaces uniq_perm_eq for uniq_perm to clear warnings in SeqFacts.v. Does not fix other warnings.

-  tweaked .gitignore, clearing .vok .vos files

### CODE REVIEW

**Comment by germanD** [comment]
Hum. I guess the patch is not backwards compatible. [In 1.9.0](https://github.com/math-comp/math-comp/blob/748d716efb2f2f75946c8386e441ce1789806a39/mathcomp/ssreflect/path.v)

``
Lemma path_min_sorted x s :
  {in s, forall y, leT x y} -> path leT x s = sorted s.
``

whereas in [1.10.0 and onwards](https://github.com/math-comp/math-comp/blob/732dc474f09c0231e2332cdecf99a3ed045cdd04/mathcomp/ssreflect/path.v)

``
Lemma path_min_sorted x s : all (leT x) s -> path leT x s = sorted s.
``
I could just add a try before case:allP.... but it wouldn't be the ideal fix.

File: Structures/SeqFacts.v [hunk 1]
```diff
@@ -116,11 +116,11 @@ Proof.
 have A: antisymmetric ord by move=>???/andP[]H1 H2; move: (nsym H1 H2).
 case: ifP=>X V P; rewrite joinCA in V.
 - apply: (eq_sorted (@trans K) (A K))=>//=.
-  + rewrite path_min_sorted//.
```
Comment (germanD) [inline Structures/SeqFacts.v]: Changing for

```suggestion
  + rewrite path_min_sorted //; (apply/allP=>//z || move=>z).    
    (* (apply/allP=>//z || move=>z) ensures mathcomp 1.9.0 compatibility *)
```
Would make it compile with ssr 8.9.1 + mathcomp 1.9.0... But this is an ugly temporal fix that could blow up. 

So, that's up to you guys. I'd just move to 1.10.0 as a minimal req.

**Comment by anton-trunov** [comment]
My 2 cents: I would also drop support the Mathcomp versions prior to 1.10.

While we are at it, here is a bit simpler proof for `dom_ord2` lemma:
```coq
Lemma dom_ord2 {K: ordType} {T} (j k : K) (w v : T) m:
  valid (k \\-> v \+ (j \\-> w \+ m)) ->
  path ord j (dom m) ->
  dom (pts j w \+ (k \\-> v \+ m)) =
  if ord j k then j :: dom (k \\-> v \+ m) else k :: j :: (dom m).
Proof.
case: totalP=> [k_lt_j V P | /eqP-> | j_lt_k V P].
- by rewrite joinCA !dom_ord1 ?(validX V) //= k_lt_j P.
- by rewrite validPtUn /= domPtUn inE eqxx /= andbT andbN.
rewrite -[pts j w]/(j \\-> w) dom_ord1 ?(validX V) //.
rewrite path_min_sorted //; apply/allP=> z.
rewrite domUn inE; case/andP=>[_]/orP[].
- by rewrite domPtK inE => /eqP->.
by move=> F; rewrite (path_ord_sorted (sorted_dom m)).
Qed.
```
This would need importing `automap` module from `fcsl`.

**Comment by dranov** [comment]
@palmskog, what do you think? Should we drop support of mathcomp versions prior to 1.10?

File: Structures/SeqFacts.v [hunk 2]
```diff
@@ -116,11 +116,11 @@ Proof.
...
-    move=>z; rewrite domUn inE (validR V) domPtK inE /=.
+  + rewrite path_min_sorted //=; apply/allP=>z.
```
Comment (germanD) [inline Structures/SeqFacts.v]: Changing for

```suggestion
  + rewrite path_min_sorted //; (apply/allP=>//z || move=>z).    
    (* (apply/allP=>//z || move=>z) ensures mathcomp 1.9.0 compatibility *)
```
Would make it compile with coq 8.9.1 + mathcomp 1.9.0... But this is an ugly temporal fix that could blow up. 

So, that's up to you guys. I'd just move to 1.10.0 as a minimal req.

**Comment by palmskog** [comment]
@dranov I'm personally fine with dropping support for MathComp < 1.10.

**Comment by dranov** [comment]
Let's do that, then.

@germanD, could you please update the mathcomp line in `coq-toychain.opam` and `coq-toychain-node.opam` to ask for `>=1.10.0` or `dev`? When you commit, that should also trigger a Travis rebuild, which should go through this time.

**Comment by germanD** [comment]
OK. Shall I also push @anton-trunov's patch for ``dom_ord2``?

**Comment by dranov** [comment]
Sure, but make that into a separate commit.

**Comment by dranov** [comment]
@anton-trunov, does FCSL no longer support Coq 8.9? I am not sure how to interpret the build error.

**Comment by germanD** [comment]
Indeed, I forgot about that. For current FCSL, we dropped support for 8.9 around OOPSLA 2019's artefact deadline. I guess @anton-trunov did the same for the fcsl-pcm package as well. From ``opam info coq-fcsl-pcm``:

``         "coq" {(>= "8.10" & < "8.12~") | (= "dev")} ``

**Comment by anton-trunov** [comment]
> does FCSL no longer support Coq 8.9

@dranov Indeed, Germán is right. I had to drop support for both Coq versions < 8.10 and Mathcomp < 1.10 due to the limited amount of time I can spend on supporting `coq-fcsl-pcm` package. It's a bit easier for Mathcomp because they have only one dependency.

Once PR https://github.com/coq/opam-coq-archive/pull/1091 is merged `coq-fcsl-pcm` with support for both Coq 8.9 and Mathcomp 1.10 will be in place.
